US04892914
The same apparatus described in Step (1) of Example 1-E is used in this procedure. The 250 ml dropping funnel is charged with toluene, 50 ml, and titanium tetrachloride, 2.4 ml (0.022 mole). This is added dropwise to the flask containing lithium diphenylamide which is maintained at -20° C. during the addition while stirring magnetically. Total addition time is 30 minutes. The mixture is warmed to room temperature and then refluxed for 2 hours. All volatiles are removed under vacuum to give a deep red oily residue. Unreacted diphenylamine is sublimed from the oil under reduced pressure at 120° C. to give a red solid. Extraction of the solid with hexane, 50 ml, followed by solvent volume reduction under vacuum then cooling to -30° C. yields red crystals of titanium tetrakis(diphenylamide).

reactant | titanium tetrachloride | [Ti](Cl)(Cl)(Cl)Cl
reactant | lithium diphenylamide | C1(=CC=CC=C1)[N-]C1=CC=CC=C1.[Li+]
reactant | diphenylamine | C1(=CC=CC=C1)NC1=CC=CC=C1 | C12H11N
solvent | toluene | C1(=CC=CC=C1)C | C7H8
product | titanium tetrakis(diphenylamide) | C1(=CC=CC=C1)[N-]C1=CC=CC=C1.C1(=CC=CC=C1)[N-]C1=CC=CC=C1.C1(=CC=CC=C1)[N-]C1=CC=CC=C1.C1(=CC=CC=C1)[N-]C1=CC=CC=C1.[Ti+4] | InChI=1S/4C12H10N.Ti/c4*1-3-7-11(8-4-1)13-12-9-5-2-6-10-12;/h4*1-10H;/q4*-1;+4
